US05968938
0.037 g (0.128 mmol) 1-Boc-4-(3-ethylphenyl)-piperazine from the previous step was dissolved in 10 mL EtOAc and cooled to 0° C. using an ice bath. HCl gas was then bubbled through the reaction for 10 min, followed by an additional 10 min of stirring. The reaction was warmed to ambient temperature and the solvent removed in vacuo. The residue was taken up in 10 mL CHCl3 that had been previously saturated with NH3 gas, the solid NH4Cl filtered, and the solvent removed to give 1-(3-ethylphenyl)piperazine as the free base.

reactant | 1-Boc-4-(3-ethylphenyl)-piperazine | 0.128 mmol, 0.037 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=CC(=CC=C1)CC | C17H26N2O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 1-(3-ethylphenyl)piperazine | C(C)C=1C=C(C=CC1)N1CCNCC1 | C12H18N2
